US08138355B2
1,2-Didodecylbenzene was synthesized with reference to the method described in “Synthesis”, 1993, pp. 387-390 from 1,2-dichlorobenzene and n-dodecylmagnesium bromide as follows.

reactant | n-dodecylmagnesium bromide | C(CCCCCCCCCCC)[Mg]Br
reactant | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,2-Didodecylbenzene | C(CCCCCCCCCCC)C1=C(C=CC=C1)CCCCCCCCCCCC | C30H54
